US05288726
5-Chloro-1-(2-chlorophenyl)-2-pentanone
Following a procedure similar to that described in Preparation 13, except that equivalent amounts of 2-chlorobenzyl bromide and 4-chlorobutyryl chloride were used in place of the 2 fluorobenzyl bromide and cyclobutanecarbonyl chloride, the title compound was obtained as a yellow oil in a yield of 79%.

reactant | 2-chlorobenzyl bromide | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
reactant | fluorobenzyl bromide | FC(C1=CC=CC=C1)Br | C7H6BrF
reactant | cyclobutanecarbonyl chloride | C1(CCC1)C(=O)Cl | C5H7ClO
product | 5-Chloro-1-(2-chlorophenyl)-2-pentanone | yield of 79% | ClCCCC(CC1=C(C=CC=C1)Cl)=O | C11H12Cl2O
